US08871753B2
Step G: 3-[(2-{[3-Bromo-5-(2-hydroxyethyl)phenyl]amino}-5-chloropyrimidin-4-yl)amino]phenol
The desired compound was prepared according to the procedure of Example D5, step B, using N-(3-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-2,5-dichloropyrimidin-4-amine and tert-butyl [3-bromo-5-(2-hydroxyethyl)phenyl]carbamate as the starting materials in 77% yield. LCMS for C18H17BrClN4O2 (M+H)+: m/z=434.9, 436.9.

reactant | N-(3-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-2,5-dichloropyrimidin-4-amine | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)NC1=NC(=NC=C1Cl)Cl | C16H21Cl2N3OSi
reactant | tert-butyl [3-bromo-5-(2-hydroxyethyl)phenyl]carbamate | BrC=1C=C(C=C(C1)CCO)NC(OC(C)(C)C)=O | C13H18BrNO3
product | 3-[(2-{[3-Bromo-5-(2-hydroxyethyl)phenyl]amino}-5-chloropyrimidin-4-yl)amino]phenol | 77% yield | BrC=1C=C(C=C(C1)CCO)NC1=NC=C(C(=N1)NC=1C=C(C=CC1)O)Cl | C18H16BrClN4O2
